US07026340B2
To tetrahydrofuran (13 ml) were added ((6-Chloro-3-pyridyl)methylidene)malononitrile (0.50 g), tris(dibenzylideneacetone)dipalladium chloroform complex (70 mg) and 1,1′-bis(diphenylphosphino)ferrocene (0.15 g) under nitrogen atmosphere, and then allyl chloride (0.41 g) and trimethylsilylcyanide (0.53 g) were added thereto. The solution was stirred at 75° C. for a day. Then the reaction mixture was filtered through silica gel, and concentrated. The residue was subjected to silica gel column chromatography to give 0.48 g of 1-(6-Chloro-3-pyridyl)-1,2,2-tricyano-4-pentene represented by the following formula (hereinafter referred to as the present invention compound (2)).

reactant | ((6-Chloro-3-pyridyl)methylidene)malononitrile | 0.50 g | ClC1=CC=C(C=N1)C=C(C#N)C#N | C9H4ClN3
reactant | allyl chloride | 0.41 g | C(C=C)Cl | C3H5Cl
reactant | trimethylsilylcyanide | 0.53 g | C[Si](C)(C)C#N | C4H9NSi
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.15 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
product | 1-(6-Chloro-3-pyridyl)-1,2,2-tricyano-4-pentene | 0.48 g | ClC1=CC=C(C=N1)C(C(CC=C)(C#N)C#N)C#N | C13H9ClN4
